Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with PMH of Hodgkin's lymphoma
who is presenting with chest pain and concern for PE. 
Patient reports that he suddenly developed left-sided chest pain
that started while picking up his baby. It was initially severe,
has come and gone throughout the day, and overall improved since
this morning. Worse with movement and deep breaths. He reported
no shortness of breath, nausea or vomiting, no diaphoresis. 
The patient went to urgent care, where he was found to have an
elevated dimer greater than 900. He underwent a CTA of his 
chest.
This was inconclusive due to motion artifact, but was notable 
for
a wedge-shaped opacification in the left long which is 
consistent
with atelectasis versus infarction. Therefore, patient was
referred to the ED for further workup of possible pulmonary
embolism. 

Regarding his non-Hodgkin's lymphoma, patient states that he was
initially diagnosed with this in ___.  He went to a
dermatologist for sunburn, was found to have lumps on his left
shoulder.  Thinking these were possible lipomas, they were
removed, with path showing non-Hodgkin lymphoma.  Patient
underwent chemotherapy and radiation to the left shoulder area. 
This was done in ___.  He states that following this
treatment, he was initially monitored every year for the first ___
years and then every other year with blood tests.  He states it
has been a few years since he was last monitored.  He denies any
fevers at home or weight loss.  He does state that around once a
week he will have drenching night sweats that wake him from 
sleep
and drench his clothes and sheets.  He has attributed this to 
the
___ climate, which is more humid than he is used to.

 
In the ED, initial vitals: T 98.5, HR 111, BP 167/110, RR 20, 
95%
RA
  
Labs were significant for  
- CBC: WBC 7.5, Hgb 15.2, Plt 249

- Lytes:
142 / 101 / 11  
-------------- 97 
3.7 \ 27 \ 1.0 

- ___: 12.2  PTT: 29.1  INR: 1.1  
 
- ddimer 993
- trop <0.01

Imaging was significant for: LENIs with no DVT 

In the ED, pt was started on a heparin gtt. 

Vitals prior to transfer: T 97.8, HR 99, BP 152/92, RR 20, 95% 
RA

  
Currently, patient states that his chest pain has improved,
though does remain.  He recounts story as above.  Discussed his
concerns about recurrence of lymphoma given the findings in the
imaging.  Patient is understandably anxious.
 
ROS: Positive as noted above. Negative for: No fevers, chills, 
or
weight changes. No changes in vision or hearing, no changes in
balance. No cough, no shortness of breath, no dyspnea on
exertion. No nausea or vomiting. No diarrhea or constipation. No
dysuria or hematuria. No hematochezia, no melena. No numbness or
weakness, no focal deficits.  
 
 
Past Medical History:
- History of Hodgkin's lymphoma, treated with radiation and
chemotherapy
- Eczema  
- appendectomy 
–Obesity
–Hypertension
 
Social History:
___
Family History:
No family history of PE or DVT
- maternal grandmother - arthritis, diabetes
- mother - thyroid disease 
 
Physical Exam:
Admission exam
VITALS: T 99.4, HR 100, BP 153/101, RR 18, 95% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, tachycardic, no murmur, no S3, no S4.  No 
JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. No edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge exam
Gen: Lying in bed in no apparent distress
Vitals: ___ 1140 Temp: 98.3 PO BP: 161/112 HR: 106 RR: 18 
O2
sat: 95% O2 delivery: RA 
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds
present, no HSM
MSK: No edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect
 
Pertinent Results:
Admission labs
___ 03:49PM   D-DIMER-993*
___ 03:49PM   PLT COUNT-249
___ 03:49PM   NEUTS-73.7* LYMPHS-12.1* MONOS-10.4 EOS-2.7 
BASOS-0.8 IM ___ AbsNeut-5.54 AbsLymp-0.91* AbsMono-0.78 
AbsEos-0.20 AbsBaso-0.06
___ 03:49PM   WBC-7.5 RBC-5.72 HGB-15.2 HCT-46.4 MCV-81* 
MCH-26.6 MCHC-32.8 RDW-13.5 RDWSD-39.5
___ 03:49PM   cTropnT-<0.01
___ 03:49PM   estGFR-Using this
___ 03:49PM   GLUCOSE-97 UREA N-11 CREAT-1.0 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 11:45PM   ___ PTT-29.1 ___
___ 06:25AM   ___ PTT-46.4* ___
___ 06:25AM   PLT COUNT-260
___ 06:25AM   WBC-8.0 RBC-5.69 HGB-15.0 HCT-46.1 MCV-81* 
MCH-26.4 MCHC-32.5 RDW-13.3 RDWSD-38.9
___ 06:25AM   ALBUMIN-4.8 CALCIUM-9.4 PHOSPHATE-4.6* 
MAGNESIUM-2.0 URIC ACID-7.7*
___ 06:25AM   ALT(SGPT)-30 AST(SGOT)-22 LD(LDH)-236 ALK 
PHOS-74 TOT BILI-0.5
___ 06:25AM   GLUCOSE-100 UREA N-11 CREAT-0.9 SODIUM-145 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-25 ANION GAP-16
___ 03:23PM   ___ PTT-59.2* ___
___ 10:44PM   ___ PTT-75.3* ___

Imaging
Urgent Care Imaging:
- ___ CTA: 
1.  Limited evaluation of the subsegmental pulmonary arteries 
due
to respiratory motion and contrast timing.  Within this
limitation, no evidence of pulmonary embolism in the main, lobar
or segmental pulmonary arteries. 
2.  Small peripheral wedge-shaped opacity in the superior 
segment
of the left lower lobe.  Findings are favored to represent
atelectasis, although developing pneumonia or a pulmonary 
infarct
could have a similar appearance. 
3.  Ovoid, intermediate density lesion of right cardiophrenic
angle, which is incompletely characterized.  Differential
diagnosis includes a pericardial cyst or epicardial lymph node. 
Please see recommendation section below. 
4.  Low attenuating lobular lesion along the left cardiophrenic
angle, which most likely represents a pericardial cyst or
esophageal/foregut duplication cyst. 
RECOMMENDATION(S):  Correlation with outside imaging is
recommended to assess for stability of the right cardiophrenic
lesion. Otherwise, nonemergent PET-CT or MRI chest with contrast
is recommended for further evaluation. 

___ Imaging:
___ LENIs
1. No evidence of deep venous thrombosis in the right or left
lower extremity veins. 
2. Necrotic appearing left inguinal lymph nodes, possibly the
sequela of therapy for Hodgkin's. Recommend correlation with
Hodgkin's therapy time course and other potential etiologies. 

___ TTE --mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function (EF 58%)

___ VQ scan -- IMPRESSION: 1. There is decreased perfusion 
and ventilation in the medial portion of the superior segment of 
the left lower lobe in the area of the chest x-ray opacity.  
Lung scan is indeterminate in that region. 2. No evidence of 
pulmonary embolism in the remainder of the bilateral lungs.

Discharge labs

___ 09:00AM BLOOD WBC-9.2 RBC-5.98 Hgb-16.1 Hct-48.6 
MCV-81* MCH-26.9 MCHC-33.1 RDW-13.3 RDWSD-39.1 Plt ___
___ 09:00AM BLOOD Glucose-175* UreaN-13 Creat-1.0 Na-142 
K-3.6 Cl-103 HCO3-22 AnGap-17
___ 06:25AM BLOOD ALT-30 AST-22 LD(LDH)-236 AlkPhos-74 
TotBili-0.5
___ 09:00AM BLOOD Calcium-9.7 Phos-3.1 Mg-2.1
___ 09:00AM BLOOD Calcium-9.7 Phos-3.1 Mg-2.___ man w/PMHx non-Hodgkin's lymphoma treated between ___ and
___ in ___, otherwise feeling well recently, who 
developed
sudden onset left-sided chest/back pain pleuritic in nature, 
with
elevated d-dimer and sinus tachycardia.  CTA inconclusive due to
motion artifact, V/Q equivocal for the area of concern, Doppler
ultrasound of legs shows no clot but did show necrotic left
inguinal lymph node. 

PLAN by PROBLEMS

#Possible pulmonary embolism
patient presented with elevated d-dimer, tachycardia, and chest
pain concerning for PE especially in the setting of prior cancer
history.  He underwent a CTA which given motion artifact was
unable to rule out a PE.  He subsequently underwent a VQ scan
which was intermediate in one area for possible PE.  He then 
underwent a third CT scan which was unable given body size to 
definitely rule out PE, it did show an enlarging wedge shaped 
area that is likely an infarct. It was read as infarct vs 
infection vs atelectasis. He did not have any infectious 
symptoms no cough, no fever, chills, sick contacts, no sputum 
production. He had ongoing pleuritic pain while admitted. Given 
the area was most likely an infarct and history and symptoms 
chose to treat for likely PE. He was initially on a heparin ggt 
and transitioned to rivaroxaban. He will need repeat imaging in 
4 weeks to make sure pulmonary infarct is resolving. 

#History of non-Hodgkin's lymphoma treated between ___ and ___
in ___
#Left inguinal necrotic lymph node incidentally found on Doppler
of the lower extremities
Found to have a necrotic lymph node incidentally on lower 
extremity doppler. His LDH was not elevated. Called the on call 
___ attending Dr. ___ who recommended close 
outpatient follow up. She will help facilitate a outpatient 
PET-CT and link him with an oncologist. He denies any weight 
loss, night sweats. Expressed to him the importance of close 
follow up. 

#Low Grade Fever 
had one isolated fever to 100.4. Offered patient to stay for 
further workup but he declined. Could be from his pulmonary 
infarct 

#Morbid obesity, BMI 40
-outpatient followup 

#Hypertension
-working on lifestyle modifications. Previously on ___
-continue to monitor, outpatient followup 

#Elevated uric acid
-No other concerning lab findings, this could easily be a 
chronic
problem
-Suggest transitional issue for PCP

>30 minutes spent on complex discharge 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible pulmonary embolism
Pulmonary infarct
Necrotic lymph node

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with acute onset of chest pain. We were 
concerned about a pulmonary embolism (clot on the lung), and you 
underwent several imaging tests to try to diagnose this.  You 
had a VQ scan and multiple CT scans. None could say for certain 
if you had a pulmonary embolism but did show a likely lung 
infarct which was very concerning for pulmonary embolism. We 
discussed this ___ and given the risks of an untreated 
blood clot were so high we chose to treat. Due to this you were 
started on anticoagulation. You should take rivaroxban 15 mg 
twice a day for 21 days then switch to 20mg a day. You will need 
close follow up with your primary care office. Their office is 
closed today but you should can them on ___ as soon as they 
open.  

We also discovered a "necrotic lymph node" in your left groin 
region. Called and spoke with the oncologist and they 
recommended you have an outpatient consultation with an 
oncologist they should be calling you on ___, if you don't 
hear from them please call their office. You will need further 
imaging to determine the significance of this lymph node and 
further workup. 

It was a pleasure caring for you,
Your medical team
 
Followup Instructions:
___